US03957808
To a solution of 38.8 g. (0.2 mole) of 4-bromo-3-methoxyisothiazole prepared as in Example 15 in 80 ml. of dimethylformamide was added 54 g. (0.6 mole) of cuprous cyanide. The mixture was stirred and heated at reflux for 1 hour. Then the reaction mixture was cooled to 25° C., and 40 g. (0.81 mole) of sodium cyanide in 120 ml. of water was added in portions. The mixture exothermed to 60°-70° C. and was allowed again to cool to 25° C. The reaction solution was then extracted thoroughly with ether. The ether extracts were washed with 10% sodium cyanide solution and then water. After drying over anhydrous magnesium sulfate and evaporation 23.4 g. (83%) of 4-cyano-3-methoxyisothiazole was obtained as a white solid, m.p. 60°-62° C. after crystallization from ligroin (90°-120°).

reactant | 4-bromo-3-methoxyisothiazole | 0.2 mole | BrC=1C(=NSC1)OC | C4H4BrNOS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium cyanide | 0.81 mole | [C-]#N.[Na+]
solvent | water | O | H2O
product | 4-cyano-3-methoxyisothiazole | 83% | C(#N)C=1C(=NSC1)OC | C5H4N2OS
